US05597825
4-(tert.Butyloxycarbonylmethyloxy)-4'-cyano-biphenyl
Prepared analogously to Example 13 from 4-cyano-4'-hydroxy-biphenyl and tert.butyl bromoacetate.

reactant | 4-cyano-4'-hydroxy-biphenyl | C(#N)C1=CC=C(C=C1)C1=CC=C(C=C1)O | C13H9NO
reactant | tert.butyl bromoacetate | BrCC(=O)OC(C)(C)C | C6H11BrO2
product | 4-(tert.Butyloxycarbonylmethyloxy)-4'-cyano-biphenyl | C(C)(C)(C)OC(=O)COC1=CC=C(C=C1)C1=CC=C(C=C1)C#N | C19H19NO3
